************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_MIN3_T6_N1
* View Name:     schematic
* Netlisted on:  Apr  1 16:41:00 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_MIN3_T6_N1
* View Name:    schematic
************************************************************************

.SUBCKT G3_MIN3_T6_N1 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI9 Z Vss C B Vdd / TIGFET_PCELL_SP15CP15_N1
XI6 Z Vdd C B Vss / TIGFET_PCELL_SP15CP15_N1
XI10 Z Vdd A B Vss / TIGFET_PCELL_SP15CP15_N1
XI8 Z Vss C A Vdd / TIGFET_PCELL_SP15CP15_N1
XI11 Z Vss A B Vdd / TIGFET_PCELL_SP15CP15_N1
XI7 Z Vdd C A Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

